US04176009
(2) DNP-Ile-Ala-Gly-D-Arg(NO2)-OBzl
Boc-Ile-Ala-Gly-D-Arg(NO2)-OBzl (900 mg, 1.4 m mol) was demasked with respect to the N-masking group, and coupled with DNP-Pro-Gln-Gly-OH (580 mg, 1.4 m mol) in the manner similar to that of Example 1, paragraph 7).

reactant | Boc-Ile-Ala-Gly-D-Arg(NO2)-OBzl | 900 mg | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)NCC(=O)N[C@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H46N8O9
reactant | DNP-Pro-Gln-Gly-OH | 580 mg | N1([C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)O)CCC1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 | C18H22N6O9
product | DNP-Ile-Ala-Gly-D-Arg(NO2)-OBzl | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)NCC(=O)N[C@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC1=CC=CC=C1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 | C30H40N10O11
